US04336191
2,2,2-Trichloroethyl 6-phthalimido-2,2-dimethyl-penam-3-carboxylate is prepared by adding a solution of 11.6 g.(0.06 mole) of 2,2,2-trichloroethylchloroformate in 50 ml. of acetonitrile dropwise over a 15-minute period of a reaction mixture of 17.2 g.(0.05 mole) of 6-phthalimido-2,2-dimethyl-penam-3-carboxylic acid in 100 ml. of dimethyl formamide and 4.8 g.(0.06 mole) of pyridine at room temperature.

reactant | 2,2,2-trichloroethylchloroformate | 0.06 mole | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | acetonitrile | C(C)#N | C2H3N
reactant | 6-phthalimido-2,2-dimethyl-penam-3-carboxylic acid | 0.05 mole | C1(C=2C(C(N1C1[C@@H]3N(C(C(S3)(C)C)C(=O)O)C1=O)=O)=CC=CC2)=O | C16H14N2O5S
reactant | pyridine | 0.06 mole | N1=CC=CC=C1 | C5H5N
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 2,2,2-Trichloroethyl 6-phthalimido-2,2-dimethyl-penam-3-carboxylate | C1(C=2C(C(N1C1[C@@H]3N(C(C(S3)(C)C)C(=O)OCC(Cl)(Cl)Cl)C1=O)=O)=CC=CC2)=O | C18H15Cl3N2O5S
